US05519040
In 10 mL of deoxygenated toluene was added 5-bromo-2-N-t-butylthiazole sulfonamide (0.30 g, 1.0 mmol), phenylboronic acid (0.12 g, 1.0 mmol) and potassium carbonate (0.28 g, 2.0 mmol) in 1.5 mL of water/ethanol (2:1). The mixture was deoxygenated for 30 min.. Tetrakis(triphenylphosphine) palladium (O) was added and reaction heated at reflux for 36 h. The reaction was diluted with ethyl acetate and washed with water (2X) followed by brine. The solvent was removed under reduced pressure and the product subjected to flash chromatography (3:1 hexane/ethyl acetate) to afford N-t-butyl-5-phenyl-2-thiazole sulfonamide.

reactant | 5-bromo-2-N-t-butylthiazole sulfonamide | 1.0 mmol, 0.30 g | BrC1=CN=C(S1)S(=O)(=O)NC(C)(C)C | C7H11BrN2O2S2
reactant | phenylboronic acid | 1.0 mmol, 0.12 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 2.0 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water ethanol | 1.5 mL | O.C(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-butyl-5-phenyl-2-thiazole sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1SC(=CN1)C1=CC=CC=C1 | C13H16N2O2S2
